US20010056123A1
Step 1: Synthesis of methyl 4-(3,4-dimethoxybenzoyl)benzoate:
2.1 g (15.72 mmol) of aluminum chloride, a solution of 2.39 g (12.02 mmol) of monomethyl terephthalate chloride dissolved in 2 ml of dichloromethane and 1.2 ml (9.25 mmol) of 1,2-dimethoxybenzene dissolved in 2 ml of dichloromethane were added to 10 ml of dichloromethane, and they were stirred overnight. The reaction solution was poured into 5 g of 1 N hydrochloric acid/ice. After the treatment with chloromethane as the extraction solvent in an ordinary manner, the solvent was evaporated, and the obtained residue was washed with ethyl acetate and dichloromethane to obtain the title compound.

reactant | aluminum chloride | 15.72 mmol, 2.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | monomethyl terephthalate chloride | 12.02 mmol, 2.39 g | [Cl-].C(C1=CC=C(C(=O)[O-])C=C1)(=O)OC
reactant | 1,2-dimethoxybenzene | 9.25 mmol, 1.2 ml | COC1=C(C=CC=C1)OC | C8H10O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 4-(3,4-dimethoxybenzoyl)benzoate | COC=1C=C(C(=O)C2=CC=C(C(=O)OC)C=C2)C=CC1OC | C17H16O5
